US07750154B2
[4-(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)piperazin-1-yl]acetic acid (AZ12189157)
To a stirred solution of tert-butyl-[4-(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)piperazin-1-yl]acetate (0.28 g) in methylene chloride (10 ml) was added 4N HCl in dioxane (3 ml). After 72 hours water (15 ml) was added and the solution poured onto an ion exchange column (isolute SCX-2 column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK). The column was washed with water (2×50 ml), methanol (2×50 ml) and the product eluted with 2N ammonia in methanol. The fractions containing product were evaporated in vacuo, triuration with iso-hexane/ethyl acetate gave the title compound (0.21 g); NMR Spectrum: (DMSOd6) 0.61 (m, 4H), 2.12 (s, 3H), 2.70 (m, 4H), 2.84 (m, 1H), 3.09 (s, 2H), 3.28 (m, 4H), 7.49 (m, 2H), 7.62 (m, 2H), 7.81 (d, 1H), 7.89 (m, 1H), 8.07 (s, 1H), 8.44 (d, 1H); Mass Spectrum: M+H+ 462.

reactant | tert-butyl-[4-(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)piperazin-1-yl]acetate | 0.28 g | C(C)(C)(C)OC(CN1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C1=C(C=CC(=C1)C(=O)NC1CC1)C)=O)=O | C29H35N5O4
reactant | HCl | 4N | Cl | ClH
reactant | water | 15 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | [4-(3-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-4-oxo-3,4-dihydroquinazolin-6-yl)piperazin-1-yl]acetic acid | 0.21 g | C1(CC1)NC(=O)C=1C=CC(=C(C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)CC(=O)O)C | C25H27N5O4
